US05538976
5-[N-(4-Cyanobenzyl)-N-(4-cyanophenyl)amino]pyrimidine
Starting compounds: 5-[(4-cyanophenyl)amino]pyrimidine and α-bromo-p-tolunitrile

reactant | 5-[(4-cyanophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | α-bromo-p-tolunitrile | BrCC1=CC=C(C=C1)C#N | C8H6BrN
product | 5-[N-(4-Cyanobenzyl)-N-(4-cyanophenyl)amino]pyrimidine | C(#N)C1=CC=C(CN(C2=CC=C(C=C2)C#N)C=2C=NC=NC2)C=C1 | C19H13N5
